US04808605
1.98 g (0.0075 mol) of N-methyl-p-[(2-benzimidazolyl)methyl]benzamide are added portionwise to a stirred suspension of 0.58 g (0.0075 mol) of lithium aluminium hydride in 40 ml of tetrahydrofuran and subsequently heated to reflux for 4 hours. At 5°-10° there are added dropwise 1.5 ml of water, then 2.3 ml of a 10% solution of potassium hydroxide and again 1.5 ml of water. The precipitate is filtered off and boiled three times with 20 ml of tetrahydrofuran each time. The combined filtrates are washed with a saturated aqueous solution of sodium chloride, dried over sodium sulphate and concentrated to dryness under reduced pressure. The residue is chromatographed on 150 g of silica gel with methanol/concentrated ammonium hydroxide (100:1) as the elution agent. There are obtained 1.58 g (84%) of 2-[4-[(methylamino)methyl]benzyl]benzimidazole, m.p. 157°-160°, as a colourless crystalline powder.

reactant | N-methyl-p-[(2-benzimidazolyl)methyl]benzamide | 0.0075 mol, 1.98 g | CNC(C1=CC=C(C=C1)CC=1NC2=C(N1)C=CC=C2)=O | C16H15N3O
reactant | lithium aluminium hydride | 0.0075 mol, 0.58 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 1.5 ml | O | H2O
reactant | potassium hydroxide | [OH-].[K+]
reactant | water | 1.5 ml | O | H2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 2-[4-[(methylamino)methyl]benzyl]benzimidazole | 1.58 g, 84% | CNCC1=CC=C(CC=2NC3=C(N2)C=CC=C3)C=C1 | C16H17N3
